US04631343
A hot solution of 8.2 g of potassium hydroxide in 155 ml of 3A ethanol was added to a hot solution of 18.7 g of 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester in 315 ml of 3A ethanol. The salt that precipitated out of solution was dissolved in 2 l. of hot water and acidified with hydrochloric acid. The solid was collected by filtration and dried to afford 16.24 g of 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid. mp=209°-211° C.

reactant | potassium hydroxide | 8.2 g | [OH-].[K+]
reactant | 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 18.7 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Br)C(=O)OCC | C13H10BrN3O2
solvent | ethanol | C(C)O | C2H6O
product | 5-cyano-1-(4-bromophenyl)-1H-pyrazole-4-carboxylic acid | 16.24 g | C(#N)C1=C(C=NN1C1=CC=C(C=C1)Br)C(=O)O | C11H6BrN3O2
